US06486141B2
Step 6 4′-bromomethyl-4-methoxybiphenyl-3-yl-phosphonic Acid Dimethyl Ester
A solution of 4′-{2-benzotriazol-1-yl-3-[4-(difluorophosphonomethy)phenyl]-2-phenylpropyl}-4-methoxybiphenyl-3-yl-phosphonic acid dimethyl ester (330 mg, 0.39 mmol) and bromotrimethylsilane (1 mL) in CH2Cl2 (5 mL) was stirred at r.t. overnight. Volatile mateials were removed in vacuo. The residue was co-evaporated with ˜90% aqueous EtOH (3×) to give the title compound as a light brown foam.

reactant | 4′-{2-benzotriazol-1-yl-3-[4-(difluorophosphonomethy)phenyl]-2-phenylpropyl}-4-methoxybiphenyl-3-yl-phosphonic acid dimethyl ester | 0.39 mmol, 330 mg | COP(OC)(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)CC(CC1=CC=C(C=C1)CP(=O)(OF)OF)(C1=CC=CC=C1)N1N=NC2=C1C=CC=C2 | C37H35F2N3O7P2
reactant | bromotrimethylsilane | 1 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4′-bromomethyl-4-methoxybiphenyl-3-yl-phosphonic Acid Dimethyl Ester | COP(OC)(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)CBr | C16H18BrO4P
